US06440995B1
(S)-1-[2-(4-Methoxy-phenyl)-quinolin-4-yl]-pyrrolidin-3-ol hydrochloride
The title compound, m.p. 270-271° C., MS: m/e=321.3 (M+H+), was prepared 4-chloro-2-(4-methoxy-phenyl)-quinoline and (S)-3-hydroxypyrrolidine.

reactant | 4-chloro-2-(4-methoxy-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC=C(C=C1)OC | C16H12ClNO
reactant | (S)-3-hydroxypyrrolidine | O[C@@H]1CNCC1 | C4H9NO
product | (S)-1-[2-(4-Methoxy-phenyl)-quinolin-4-yl]-pyrrolidin-3-ol hydrochloride | Cl.COC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)N1C[C@H](CC1)O | InChI=1S/C20H20N2O2.ClH/c1-24-16-8-6-14(7-9-16)19-12-20(22-11-10-15(23)13-22)17-4-2-3-5-18(17)21-19;/h2-9,12,15,23H,10-11,13H2,1H3;1H/t15-;/m0./s1
